US07776857B2
In a 20 mL sealed tube, was added 1,4-dioxane (1.08 mL), purged the solvent with nitrogen for 5 minutes, and sealed the tube. To the tube was added 4-chloro-N-(4-(7-methoxy-1,5-naphthyridin-4-ylthio)phenyl)phthalazin-1-amine (0.150 g, 0.336 mmol), tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate (0.125 g, 0.404 mmol) and sodium carbonate (2.0 M aqueous) (0.336 mL, 0.673 mmol). The mixture was purged with nitrogen, sealed, and then to it was added PdCl2(dppf) (0.012 g, 0.017 mmol). The mixture was again purged with nitrogen, sealed, and heated to 100° C., while stirring for 3 hours. The reaction was cooled to RT and concentrated. The crude material was purified by Isco silica gel chromatography using 0-100% CH2Cl2:MeOH(90:110)/CH2Cl2. The product containing fractions were concentrated to yield tert-butyl 4-(4-(4-(7-methoxy-1,5-naphthyridin-4-ylthio)phenylamino)phthalazin-1-yl)-5,6-dihydropyridine-1(2H)-carboxylate as light yellow solid. MS: [M+H]=593.0; Calc'd 592.7 for C33H32N6O3S.

reactant | 4-chloro-N-(4-(7-methoxy-1,5-naphthyridin-4-ylthio)phenyl)phthalazin-1-amine | 0.336 mmol, 0.150 g | ClC1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)SC1=CC=NC2=CC(=CN=C12)OC | C23H16ClN5OS
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 0.404 mmol, 0.125 g | CC1(OB(OC1(C)C)C1=CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
reactant | sodium carbonate | 0.673 mmol, 2.0 M, 0.336 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | PdCl2(dppf) | 0.017 mmol, 0.012 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | 1,4-dioxane | 1.08 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 4-(4-(4-(7-methoxy-1,5-naphthyridin-4-ylthio)phenylamino)phthalazin-1-yl)-5,6-dihydropyridine-1(2H)-carboxylate | COC1=CN=C2C(=CC=NC2=C1)SC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)C1=CCN(CC1)C(=O)OC(C)(C)C | C33H32N6O3S
